US05541092
To a stirred suspension (at room temperature) of immobilized C. antarctica lipase (370 mg, according to example 1) in styrene (4.15 ml, 36.1 mmol) containing myristic acid (823 mg, 3.6 mmol) hydrogen peroxide (3 ml, 52.5 mmol) was added in six equal portions after 0, 0.5, 1.0, 1.5, 2.0 and 3.0 hours. After 1.5 hours 16.5% styrene oxide was formed as determined by gas chromatography.

reactant | styrene | 36.1 mmol, 4.15 ml | C=CC1=CC=CC=C1 | C8H8
reactant | myristic acid | 3.6 mmol, 3 ml, 823 mg | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
product | styrene oxide | 16.5% | C1C(C2=CC=CC=C2)O1 | C8H8O
